US07855293B2
1-(4-acetoxybutyl)-4-methyl-chinolinium iodide (2h)
10 mmol (1.43 g) lepidine and 10 mmol (2.42 g) 4-iodobutylacetate are heated 4 h at 120° C. and after cooling repeatedly stirred with ether, decanted a finally dried in vacuum.

reactant | lepidine | 10 mmol, 1.43 g | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
reactant | 4-iodobutylacetate | 10 mmol, 2.42 g | ICCCCOC(C)=O | C6H11IO2
solvent | ether | CCOCC | C4H10O
product | 1-(4-acetoxybutyl)-4-methyl-chinolinium iodide | [I-].C(C)(=O)OCCCC[N+]1=CC=C(C2=CC=CC=C12)C | InChI=1S/C16H20NO2.HI/c1-13-9-11-17(10-5-6-12-19-14(2)18)16-8-4-3-7-15(13)16;/h3-4,7-9,11H,5-6,10,12H2,1-2H3;1H/q+1;/p-1
